US09353063B2
(E)-(2,2-dimethylcycloheptylidene)methanol
To a stirred mixture of powdered sodium methoxide (3.0 g, 56.16 mmol) in toluene (90 mL) at 0° C. was added cycloheptanone (6.0 g, 53.49 mmol) and ethyl formate (7.92 g, 106.98 mmol). The mixture was warmed to room temperature and stirred overnight. Ice water (70 mL) was added and the organic phase separated. The organic phase was washed by 5% aqueous sodium hydroxide (30 mL×2) and the combined aqueous phase was acidified to pH=3 with 2 N hydrochloric acid and then extracted with ethyl acetate (120 mL×3). The combined organic phase was washed with brine, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: petroleum ether/ethyl acetate=80/1) to afford the title compound as a colorless oil (4.26 g, Yield: 57%). Rf=0.6 (20:1 petroleum ether/ethyl acetate); 1H NMR (400 MHz, CDCl3) δ 14.68 (d, J=9.2 Hz, 1H), 7.63 (d, J=9.2 Hz, 1H), 2.55-2.52 (m, 2H), 2.26-2.24 (m, 2H), 1.76-1.58 (m, 6H) ppm.

reactant | sodium methoxide | 56.16 mmol, 3.0 g | C[O-].[Na+]
reactant | cycloheptanone | 53.49 mmol, 6.0 g | C1(CCCCCC1)=O | C7H12O
reactant | ethyl formate | 106.98 mmol, 7.92 g | C(=O)OCC | C3H6O2
solvent | toluene | 90 mL | C1(=CC=CC=C1)C | C7H8
product | (E)-(2,2-dimethylcycloheptylidene)methanol | 4.26 g, Yield: 57% | CC1(\C(\CCCCC1)=C\O)C | C10H18O
